US20010046993A1
A. Ethyl 2-[2-(4-benzyl-1-piperazinyl)ethyl]-6-iodohexanoate
To a stirred solution of lithium diisopropylamide (2 M, 32.0 ml, 6.36 mmol) in tetrahydrofuran (420 ml) was added ethyl 4-(4-benzyl-1-piperazinyl)-butanoate (6.47 g, 21.2 mmol) (Preparation 1) at −78° C. and the mixture was stirred for 1 h at the same temperature. To this mixture was added HMPA (19.4 ml) and the resultant mixture was added to a solution of 1,4-diiodobutane (13.2 g, 4.25 mmol) in tetrahydrofuran (22 ml) at −78° C. After 1 h, the temperature was raised to −50° C. and the mixture was stirred for 1 hour. The reaction was quenched by adding AcOH (0.230 ml). After the mixture was basified with aq. saturated NaHCO3, then the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (SiO2, 200-350 mesh/500 g/hexane:ethyl acetate=2:1) to provide a yellow oil (6.3 g/63%).

reactant | lithium diisopropylamide | 6.36 mmol, 2 M, 32.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl 4-(4-benzyl-1-piperazinyl)-butanoate | 21.2 mmol, 6.47 g | C(C1=CC=CC=C1)N1CCN(CC1)CCCC(=O)OCC | C17H26N2O2
reactant | HMPA | 19.4 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 1,4-diiodobutane | 4.25 mmol, 13.2 g | ICCCCI | C4H8I2
solvent | tetrahydrofuran | 420 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | Ethyl 2-[2-(4-benzyl-1-piperazinyl)ethyl]-6-iodohexanoate | C(C1=CC=CC=C1)N1CCN(CC1)CCC(C(=O)OCC)CCCCI | C21H33IN2O2
